US04349686
N-(5-Formyl-thien-2-yl)-N-hexadecyl-propionic acid amide.
75 g of N-hexadecyl-N-(2-thienyl)-propionic acid amide are dissolved in 59 cc. of anhydrous DMF and 36.7 g of phosphorus oxychloride are added thereto dropwise with ice cooling such that the temperature of the reaction mixture does not increase above 20° C. Stirring is continued for 1 hour and 20° C. and the reaction mixture finally is heated 3 hours to 80° C. Ice is added to the reaction mixture and 5 N soda lye is added until reaching a pH of 6. The resulting mixture is extracted with ether, the ethereal layer is separated, washed with water and dried over Na2SO4. The desired final product crystallizes at low temperature from the ethereal solution.

reactant | N-hexadecyl-N-(2-thienyl)-propionic acid amide | 75 g | C(CCCCCCCCCCCCCCC)N(C(CC)=O)C=1SC=CC1 | C23H41NOS
reactant | phosphorus oxychloride | 36.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
product | N-(5-Formyl-thien-2-yl)-N-hexadecyl-propionic acid amide | C(=O)C1=CC=C(S1)N(C(CC)=O)CCCCCCCCCCCCCCCC | C24H41NO2S
